US06762180B1
(120) 3-Z-[1-(4-(1,2,4-triazol-2-yl-methyl)-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-methoxycarbonyl-2-indolinone and 4-(1,2,4-triazol-1-yl-methyl)-aniline Rf value: 0.5 (silica gel, methylene chloride/methanol=10:1) C26H21N5O3

reactant | 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-methoxycarbonyl-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(=O)OC)=C(C1=CC=CC=C1)OCC)=O | C21H19NO5
reactant | 4-(1,2,4-triazol-1-yl-methyl)-aniline | N1(N=CN=C1)CC1=CC=C(N)C=C1 | C9H10N4
product | 3-Z-[1-(4-(1,2,4-triazol-2-yl-methyl)-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone | N=1N(C=NC1)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)OC)=O)C=C1 | C26H21N5O3
